US08614206B2
A mixture of 5-chloro-1-(2,2-difluoroethyl)-4-nitro-1H-pyrazole (800 mg, 3.78 mmol), 1,4-diazepan-6-ol dihydrobromide (1.58 g, 5.67 mmol) and DIPEA (2.5 mL, 14.35 mmol) in EtOH (6 mL) was heated at 130° C. in a microwave for 3 hr. The solvent was removed under reduced pressure and the residue was passed through an SCX column washing with DCM and 1:1 MeOH:DCM and MeOH and eluting with 1N ammonia in MeOH to give 1-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)-1,4-diazepan-6-ol as a pale yellow gum (1.0 g). This gum (1.0 g, 3.44 mmol) was dissolved in DCM (100 mL) and treated with di-tert-butyl dicarbonate (2.25 g, 10.31 mmol) and DIPEA (2.4 mL, 13.75 mmol). The reaction mixture was stirred at room temperature for 1.5 hr and washed with saturated aqueous NaHCO3 solution (100 mL). The organic layer was separated, passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-100%) EtOAc/isohexane gave tert-butyl 4-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)-6-hydroxy-1,4-diazepane-1-carboxylate as a pale green gum (46% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.11 (s, 1H), 6.18 (tdd, J=55.6, 5.6, 3.2 Hz, 1H), 4.49-4.31 (m, 2H), 4.19-2.95 (m, 10H), 1.60-1.40 (m, 9H).

reactant | 5-chloro-1-(2,2-difluoroethyl)-4-nitro-1H-pyrazole | 3.78 mmol, 800 mg | ClC1=C(C=NN1CC(F)F)[N+](=O)[O-] | C5H4ClF2N3O2
reactant | 1,4-diazepan-6-ol dihydrobromide | 5.67 mmol, 1.58 g | Br.Br.N1CCNCC(C1)O
reactant | DIPEA | 14.35 mmol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 6 mL | CCO | C2H6O
product | 1-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)-1,4-diazepan-6-ol | 1.0 g | FC(CN1N=CC(=C1N1CCNCC(C1)O)[N+](=O)[O-])F | C10H15F2N5O3
